US07557112B2
Triethylamine and methanesulfonyl chloride were added to a chloroform solution of methyl 4,5-dichloro-2-(4-oxo-3,4-dihydrothieno[3,2-d]pyrimidine-2-yl)benzoate under ice cooling and stirred under ice cooling for 30 minutes to give methyl 4,5-dichloro-2-{4-[(methanesulfonyl)oxy]thieno[3,2-d]pyrimidine-2-yl}benzoate.

reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | methyl 4,5-dichloro-2-(4-oxo-3,4-dihydrothieno[3,2-d]pyrimidine-2-yl)benzoate | ClC1=CC(=C(C(=O)OC)C=C1Cl)C=1NC(C2=C(N1)C=CS2)=O | C14H8Cl2N2O3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 4,5-dichloro-2-{4-[(methanesulfonyl)oxy]thieno[3,2-d]pyrimidine-2-yl}benzoate | ClC1=CC(=C(C(=O)OC)C=C1Cl)C=1N=C(C2=C(N1)C=CS2)OS(=O)(=O)C | C15H10Cl2N2O5S2
